US04727073
To a solution of phosphorus tribromide (16.85 g) in a mixture of benzene (150 ml) and tetrahydrofuran (150 ml) was dropwise added a solution of 5-hydroxy-methyl-6-methyl-2-phenyl-4-(3-nitrophenyl)pyrimidine (30 g) in tetrahydrofuran (150 ml) under cooling at 7°-10° C. After stirring for 4 hours at the same temperature, the reaction mixture was poured into ice-water (200 ml), adjusted to pH 9.5 with saturated potassium carbonate and extracted with ethyl acetate (300 ml). After filtering off an insolble material, the organic layer was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from diethyl ether to give 5-bromomethyl-6-methyl-2-phenyl-4-(3-nitrophenyl)pyrimidine (29.08 g).

reactant | phosphorus tribromide | 16.85 g | P(Br)(Br)Br | Br3P
reactant | 5-hydroxy-methyl-6-methyl-2-phenyl-4-(3-nitrophenyl)pyrimidine | 30 g | OC=1C(=NC(N(C1C)C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C18H17N3O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 5-bromomethyl-6-methyl-2-phenyl-4-(3-nitrophenyl)pyrimidine | 29.08 g | BrCC=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C18H14BrN3O2
